US04145432
To a solution of diethyl 2,6-bis(diethoxymethyl)-4-(2-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate (1.7 g) in acetone (17 ml) was added 6N-hydrochloric acid (1.5 ml) and stirred at room temperature for 3 hours. After removing the solvent, the residue was extracted with diethyl ether and the extract was washed with water and dried. The solvent was removed from the extract to give diethyl 2,6-diformyl-4-(2-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate (1.35 g). The product was recrystallized from diethyl ether to give pure yellowish granules, m.p. 85° to 86° C.

reactant | diethyl 2,6-bis(diethoxymethyl)-4-(2-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 1.7 g | C(C)OC(C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)C(OCC)OCC)OCC | C27H38ClNO8
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | acetone | 17 ml | CC(=O)C | C3H6O
product | diethyl 2,6-diformyl-4-(2-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 1.35 g | C(=O)C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)C=O | C19H18ClNO6
